US04225335
Preparation of N-(4,5-Dimethyl-1,3-dioxolan-2-ylmethyl)-2-methoxy-α-chloroacetanilide
N-(4,5-Dimethyl-1,3-dioxolan-2-ylmethyl)-2-methoxyaniline (5.21 grams), diethyl ether (30 ml), sodium carbonate (4.66 grams) and water (50 ml) were charged into a glass reaction flask equipped with stirrer, thermometer and cooling means. The mixture was cooled to a temperature of 0° to 5° C. and chloroacetyl chloride (2 ml) was slowly added with stirring. After the addition was completed, the mixture was stirred for a period of 1 hour. After this time the organic phase was separated from the aqueous phase and filtered. The filtrate was washed with aqueous sodium carbonate three times and then dried over anhydrous magnesium sulfate. The dried solution was filtered and stripped of solvent under reduced pressure to yield the desired product N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)-2-methoxy-α-chloroacetanilide as a white crystalline solid having a melt point of 72° to 73° C.

reactant | N-(4,5-Dimethyl-1,3-dioxolan-2-ylmethyl)-2-methoxyaniline | 5.21 grams | CC1OC(OC1C)CNC1=C(C=CC=C1)OC | C13H19NO3
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
reactant | sodium carbonate | 4.66 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetyl chloride | 2 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 50 ml | O | H2O
product | N-(4,5-dimethyl-1,3-dioxolan-2-ylmethyl)-2-methoxy-α-chloroacetanilide | CC1OC(OC1C)CN(C1=CC=CC=C1)C(C(Cl)OC)=O | C15H20ClNO4
